US06362177B1
To a mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (0.050 mmol), 5-bromo-2-ethoxybenzaldehyde (0.15 mmol), methanol (1.2 mL), and acetic acid (0.030 mL) was added NaBH3CN (0.25 mmol) in methanol (0.50 mL). The reaction mixture was stirred at 50° C. for 13 h. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×3). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. To the resulting material were added dichloromethane (1 mL) and trifluoroacetic acid (TFA) (0.50 mL) and the solution was stirred at room temperature for 10 min. The reaction mixture was concentrated, and the residue was dissolved in methanol, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. Preparative TLC (SiO2, ethyl acetate/methanol=10/1) gave 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(5-bromo-2-ethoxybenzyl)piperidine (Compound No. 2052) (10.2 mg, 38%): The purity was determined by RPLC/MS (96%); ESI/MS m/e 539.2 (M++H, C24H29BrF2N4O3).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 5-bromo-2-ethoxybenzaldehyde | 0.15 mmol | BrC=1C=CC(=C(C=O)C1)OCC | C9H9BrO2
reactant | acetic acid | 0.030 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.25 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 0.50 mL | CO | CH4O
solvent | methanol | 1.2 mL | CO | CH4O
product | 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(5-bromo-2-ethoxybenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=C(C=CC(=C2)Br)OCC)C=C(C(=C1)F)F | C24H29BrF2N4O3
